US06852732B2
Synthesis of 8-(2,4-dichlorophenyl)-4-(4-carbamoyl-1,2,3,6-tetrahydropyridin-1-yl)-2-methyl-quinoline (Compound 1-01)
In 96% formic acid (5 mL) was dissolved 8-(2,4-dichlorophenyl)-2-methyl-4-(4-cyano-1,2,3,6-tetrahydropyridin-1-yl)quinoline (1.0 g), and hydrogen chloride gas was bubbled into the solution under ice-cooling to saturate the solution therewith. The reaction mixture was stirred at room temperature for 4 hours and then distilled under reduced pressure to remove the solvent. The residue was separated with chloroform and a saturated aqueous sodium hydrogen-carbonate solution, and the organic layer was dried over anhydrous sodium sulfate. The desiccating agent was filtered off and the filtrate was concentrated under reduced pressure. The residue was purified by a silica gel column chromatography (silica gel: Wako Gel (C200), eluent: chloroform-methanol=10:1) and then recrystallized from tetrahydrofuran to obtain the title compound (174 mg).

reactant | 8-(2,4-dichlorophenyl)-2-methyl-4-(4-cyano-1,2,3,6-tetrahydropyridin-1-yl)quinoline | 1.0 g | ClC1=C(C=CC(=C1)Cl)C=1C=CC=C2C(=CC(=NC12)C)N1CCC(=CC1)C#N | C22H17Cl2N3
reactant | hydrogen chloride | Cl | ClH
reactant | formic acid | 5 mL | C(=O)O | CH2O2
product | 8-(2,4-dichlorophenyl)-4-(4-carbamoyl-1,2,3,6-tetrahydropyridin-1-yl)-2-methyl-quinoline | 174 mg | ClC1=C(C=CC(=C1)Cl)C=1C=CC=C2C(=CC(=NC12)C)N1CCC(=CC1)C(N)=O | C22H19Cl2N3O
